US06008243
According to the procedure described in Example 1(a), N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester (371 mg, 0.781 rnmol) in MeOH (15 mL) was hydrogenolyzed to provide 301 mg (100%) of N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid as a yellow foam. 1H NMR (CDCl3): δ 7.50-7.20 (m, 4H), 7.15 (tt, 1H, J=1.2, 7.3 Hz), 7.06 (dd,1H, J=2.0, 2.0 Hz), 6.78 (dd, 1H, J=2.5, 2.5 Hz), 6.48 (dd, 1H, J=1.6, 2.8 Hz), 5.20 (t, 1H, J=6.9 Hz), 4.20 (d, 1H, J=9.3 Hz), 3.34 (dd, 1H, J=6.9, 17.4 Hz), 3.06 (dd, 1H, J=7.2, 17.4 Hz), 2.69 (d, 3H, J=4.7 Hz), 0.93 (s, 9H); IR (KBr): 3318, 2966, 1718, 1654, 1559, 1542, 1202, 745 cm-1. HRFABMS: Calcd for C21H27N3O4Cs (M+Cs+): 518.1056. Found: 518.1037. Anal. Calculated for C21H27N3O4.0.3 CHCl3 : C, 60.73; H, 6.53; N, 9.97. Found: C, 60.70; H, 6.58; N, 9.84.

reactant | N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester | 371 mg | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C1=CC=CC=C1)=O | C28H33N3O4
solvent | MeOH | 15 mL | CO | CH4O
product | N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid | 301 mg, 100% | CC([C@@H](C(NC)=O)NC([C@@H](CC(=O)O)N1C=C(C=C1)C1=CC=CC=C1)=O)(C)C | C21H27N3O4
